US06494923B2
Method for Preparing 2-(2-hydroxyethyl)-5-methyl-4-thiophen-2-ylmethylene-2,4-dihydropyrazol-3-one (2)
2.85 g of 5-hydroxy-1-hydroxyethyl-3-methyl-1H-pyrazole and 2.25 g of thiophene-2-carboxaldehyde in 30 mL of 2-butanol were allowed to reflux for 7 hours. Upon cooling, a vivid orange-colored dye crystallized.

reactant | 5-hydroxy-1-hydroxyethyl-3-methyl-1H-pyrazole | 2.85 g | OC1=CC(=NN1C(C)O)C | C6H10N2O2
reactant | thiophene-2-carboxaldehyde | 2.25 g | S1C(=CC=C1)C=O | C5H4OS
reactant | 2-butanol | 30 mL | CC(CC)O | C4H10O
product | 2-(2-hydroxyethyl)-5-methyl-4-thiophen-2-ylmethylene-2,4-dihydropyrazol-3-one | OCCN1N=C(C(C1=O)=CC=1SC=CC1)C | C11H12N2O2S
